US05071994
Synthesis of 5-methyl-2-(4-ethoxycarbonyl-2-nitrophenyl)-4-isoxazolin-3-one
After mixing 400 g of ethyl 4-chloro-3-nitrobenzoate, 1.2 liters of dimethyl sulfoxide, 270 g of 5-methyl-3-hydroxyisoxazole, and 292 g of potassium carbonate, the reaction was performed for 10 hours at 60° C. After the reaction was over, the reaction mixture was cooled and poured into water. Crystals thus deposited were recovered by filtration and recrystallized from ethyl acetate to provide 300.1 g of the above-described compound with a yield of 59.0%. The melting point thereof was 122° C. to 123° C.

reactant | ethyl 4-chloro-3-nitrobenzoate | 400 g | ClC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8ClNO4
reactant | dimethyl sulfoxide | 1.2 liters | CS(=O)C | C2H6OS
reactant | 5-methyl-3-hydroxyisoxazole | 270 g | CC1=CC(=NO1)O | C4H5NO2
reactant | potassium carbonate | 292 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-methyl-2-(4-ethoxycarbonyl-2-nitrophenyl)-4-isoxazolin-3-one | 300.1 g, yield of 59.0% | CC1=CC(N(O1)C1=C(C=C(C=C1)C(=O)OCC)[N+](=O)[O-])=O | C13H12N2O6
